### PR TITLE
feat: frame the exception channel

### PR DESCRIPTION
**Pull request by sgraf812**
This PR extends the frame mechanism to the exception channel of `Std.WP`. For example, a program logic whose exceptional exits carry state now supports a frame rule such as `⦃P⦄ x ⦃Q; E⦄ → ⦃F ⋆ P⦄ x ⦃F ⋆ Q; F ⋆ E⦄`. The frame closure, the frame condition, and the frame rule gain a companion operator `opE : R → EPred → EPred` for the exception postcondition that defaults to ignoring the frame. 

```lean
@[spec] theorem exit_spec : ⦃ ((0 : Addr) ↦ 1) ⦄ Prog.exit ⦃ fun _ => (⊥ : HProp); ((0 : Addr) ↦ 1) ⦄ := sorry

theorem exit_frames_via_vcgen :
    ⦃ ((0 : Addr) ↦ 1) ∗ ((5 : Addr) ↦ 7) ⦄ Prog.exit
    ⦃ fun _ => (⊥ : HProp); ((0 : Addr) ↦ 1) ∗ ((5 : Addr) ↦ 7) ⦄ := by
  vcgen frames | Prog.exit => ((5 : Addr) ↦ 7) with finish
```

The `FrameOp` class and its instances derive `opE` as an out parameter from `op : R → Pred → Pred` and the structure of `EPred`. The derivation uses `op` itself when `EPred = Pred`, a pointwise lift under a function layer, and a componentwise lift on a product layer. A low-priority default instance ignores the frame. An instance for a custom exception layer takes precedence. Conjunctivity gains a definition in terms of predicate transformers as `PredTrans.Conjunctive`, and `PredTrans.Monotone` is capitalized. `WP.withFrameClosure` and `WPMonad.withFrameClosure` build interpretations that frame every resource on both channels by construction. `vcgen`'s frameproc mechanism knows about `FrameOp` and works accordingly.

### CODE REVIEW

File: src/Std/Internal/Order/FrameClosure.lean [hunk 1]
```diff
@@ -94,27 +143,113 @@ theorem PredTrans.le_frameClosure_iff (op : R → Pred → Pred) [∀ r, Preserv
...
+
+/-- The frame acts componentwise on a product layer. -/
+def prod {A : Type v} {B : Type v'} {R : Type x} (opA : R → A → A) (opB : R → B → B) (r : R) :
+    A × B → A × B :=
+  Prod.map (opA r) (opB r)
+
+/-- The frame cannot act on the channel, so its companion ignores it. -/
+def ignore {A : Type v} {R : Type x} : R → A → A := fun _ => id
+
+variable {A : Type u} {B : Type v} {R : Type x} {ε : Type w}
```
Comment (sgraf812) [inline src/Std/Internal/Order/FrameClosure.lean]: It does feel off here. Maybe it whouls live close to WP.Frame? We should remember that this is mostly support for `vcgen`.

File: src/Lean/Elab/Tactic/VCGen/RuleConstruction.lean [hunk 2]
```diff
@@ -436,22 +435,42 @@ private def analyzeFrameRule (rule : BackwardRule) (opHead : Name) (numExcess :
...
+  if E.isAppOfArity ``Prod 2 then
+    let opA ← mkOpEAppM R Pred op E.appFn!.appArg!
+    let opB ← mkOpEAppM R Pred op E.appArg!
+    return ← mkAppOptM ``Lean.Order.EFrame.prod #[none, none, none, some opA, some opB]
+  mkAppOptM ``Lean.Order.EFrame.ignore #[some EPred, some R]
+
 /--
 The frame backward rule for a frame operator `op : R → Pred → Pred`, built from the frame rule
-`WP.Frames.op_wp_upperAdjoint_le_wp`.
+`WP.op_wp_upperAdjoint_le_wp` at the companion `mkOpEAppM` derives.
```
Comment (sgraf812) [inline src/Lean/Elab/Tactic/VCGen/RuleConstruction.lean]:
```suggestion
`WP.op_wp_upperAdjoint_le_wp` .
```

File: src/Std/Internal/Order/FrameClosure.lean [hunk 3]
```diff
@@ -31,57 +32,105 @@ section
 
 variable {Pred : Type u} [CompleteLattice Pred] {EPred : Type v} {β : Type w} {R : Type x}
```
Comment (sgraf812) [inline src/Std/Internal/Order/FrameClosure.lean]: Add the `CompleteLattice EPred` instance here as well?

File: src/Std/Internal/Order/FrameClosure.lean [hunk 4]
```diff
@@ -31,57 +32,105 @@ section
...
 
+/-- `t` frames the resource `F` with respect to the operator `op : R → Pred → Pred` and its
+exception-channel companion `opE`: `op F ·` commutes into the value postcondition of `t` while
+`opE F ·` commutes into the exception postcondition. -/
+def PredTrans.Frames (op : R → Pred → Pred) (opE : R → EPred → EPred)
+    (t : PredTrans Pred EPred β) (F : R) : Prop :=
+  ∀ (Q : β → Pred) (E : EPred),
+    op F (t.apply Q E) ⊑ t.apply (fun a => op F (Q a)) (opE F E)
+
+/-- The framed spec `vcgen` applies for `t`, when each `op r` and `opE r` preserves suprema:
```
Comment (sgraf812) [inline src/Std/Internal/Order/FrameClosure.lean]:
```suggestion
/-- The framed spec `vcgen` applies for `t`:
```

File: src/Std/Internal/Order/FrameClosure.lean [hunk 5]
```diff
@@ -31,57 +32,105 @@ section
...
+framing `t` by `F` makes the wp at the two weakest footprints, `upperAdjoint (op F) ∘ Q` and
```
Comment (sgraf812) [inline src/Std/Internal/Order/FrameClosure.lean]: "framing `t` by `F`" souns strange. The entire description souns dubious. Do we really need a docstring here?!!!

File: src/Std/Internal/Order/FrameClosure.lean [hunk 6]
```diff
@@ -20,48 +20,190 @@ set_option linter.missingDocs true
...
+
+section
+
+variable {Pred : Type u} [CompleteLattice Pred] {R : Type x} {op : R → Pred → Pred}
+
+instance (priority := high) FrameOp.instDiag [∀ r, PreservesSup (op r)] : FrameOp op Pred op where
+
+instance FrameOp.instPointwise {ε : Type v} {EPred' : Type v'} [CompleteLattice EPred']
+    {opE' : R → EPred' → EPred'} [FrameOp op EPred' opE'] :
+    FrameOp op (ε → EPred') (FrameOp.pointwise opE') where
```
Comment (sgraf812) [inline src/Std/Internal/Order/FrameClosure.lean]: Why not put EPred and CompleteLattice EPred in the variable section? Why is does it occur primed here?

File: src/Std/Internal/Order/PreservesSup.lean [hunk 7]
```diff
@@ -41,6 +41,28 @@ class PreservesSup {α : Type u} [CompleteLattice α] (f : α → α) : Prop whe
   map_sup (s : α → Prop) :
     f (CompleteLattice.sup s) = CompleteLattice.sup (fun y => ∃ x, s x ∧ y = f x)
 
+instance preservesSup_id : PreservesSup (id : α → α) where
```
Comment (sgraf812) [inline src/Std/Internal/Order/PreservesSup.lean]: bad name for an instance. Better just let it be auto-generated!

File: src/Std/Internal/Order/PreservesSup.lean [hunk 8]
```diff
@@ -41,6 +41,28 @@ class PreservesSup {α : Type u} [CompleteLattice α] (f : α → α) : Prop whe
...
+  map_sup s := by
+    show CompleteLattice.sup s = _
+    congr 1
+    funext y
+    exact propext ⟨fun hy => ⟨y, hy, rfl⟩, fun ⟨x, hx, hxy⟩ => hxy ▸ hx⟩
+
+instance instPreservesSupComp {ε : Type v} (f : α → α) [PreservesSup f] :
```
Comment (sgraf812) [inline src/Std/Internal/Order/PreservesSup.lean]: take the auto-generated name

File: src/Std/Internal/Order/PreservesSup.lean [hunk 9]
```diff
@@ -175,6 +197,46 @@ theorem Prod.mk_meet (p q : α × β) : ((p.fst ⊓ q.fst, p.snd ⊓ q.snd) : α
...
+
+theorem Prod.fst_sup (c : α × β → Prop) :
+    (CompleteLattice.sup c).fst = CompleteLattice.sup fun a => ∃ b, c (a, b) := by
+  rw [← Prod.mk_sup]
+
+theorem Prod.snd_sup (c : α × β → Prop) :
+    (CompleteLattice.sup c).snd = CompleteLattice.sup fun b => ∃ a, c (a, b) := by
+  rw [← Prod.mk_sup]
+
+instance instPreservesSupProdMap (f : α → α) (g : β → β) [PreservesSup f] [PreservesSup g] :
```
Comment (sgraf812) [inline src/Std/Internal/Order/PreservesSup.lean]: take the auto-generated name

File: src/Std/Internal/Order/FrameClosure.lean [hunk 10]
```diff
@@ -20,48 +20,190 @@ set_option linter.missingDocs true
...
+end
+
+end FrameOp
+
+/-- A resource action on the two postcondition channels of a `PredTrans Pred EPred`: `op` acts on
+the value channel and its companion `opE` on the exception channel, both preserving suprema.
+Instances derive `opE` from `op` by the structure of `EPred`: `op` itself where the channel carries
+the assertion type, pointwise under a function layer, componentwise on a product layer, and the
+ignoring companion where the frame cannot act. -/
+class FrameOp {Pred : Type u} [CompleteLattice Pred] {R : Type x} (op : R → Pred → Pred)
```
Comment (sgraf812) [inline src/Std/Internal/Order/FrameClosure.lean]: put the class definition at the top. Then define the instances and its support theorems.

File: src/Std/Internal/Order/FrameClosure.lean [hunk 11]
```diff
@@ -20,48 +20,195 @@ set_option linter.missingDocs true
...
+
+instance FrameOp.instPointwise {ε : Type w} {opE : R → EPred → EPred} [FrameOp op EPred opE] :
+    FrameOp op (ε → EPred) (FrameOp.pointwise opE) where
+
+instance FrameOp.instProd {B : Type v'} [CompleteLattice B]
+    {opA : R → EPred → EPred} {opB : R → B → B} [FrameOp op EPred opA] [FrameOp op B opB] :
+    FrameOp op (EPred × B) (FrameOp.prod opA opB) where
+
+instance (priority := low) FrameOp.instIgnore [∀ r, PreservesSup (op r)] :
+    FrameOp op EPred FrameOp.ignore where
```
Comment (sgraf812) [inline src/Std/Internal/Order/FrameClosure.lean]: leave instance names anonymous

File: src/Std/Internal/Order/FrameClosure.lean [hunk 12]
```diff
@@ -20,48 +20,195 @@ set_option linter.missingDocs true
...
+
+instance {B : Type v'} [CompleteLattice B] (opA : R → EPred → EPred) (opB : R → B → B)
+    [∀ r, PreservesSup (opA r)] [∀ r, PreservesSup (opB r)] (r : R) :
+    PreservesSup (FrameOp.prod opA opB r) :=
+  inferInstanceAs (PreservesSup (Prod.map (opA r) (opB r)))
+
+instance (r : R) : PreservesSup (FrameOp.ignore (A := EPred) r) :=
+  inferInstanceAs (PreservesSup (id : EPred → EPred))
+
+instance (priority := high) FrameOp.instDiag [∀ r, PreservesSup (op r)] : FrameOp op Pred op where
```
Comment (sgraf812) [inline src/Std/Internal/Order/FrameClosure.lean]: anonymous

File: src/Std/Internal/Order/FrameClosure.lean [hunk 13]
```diff
@@ -20,48 +20,195 @@ set_option linter.missingDocs true
...
+/-!
+## Exception-channel companion combinators
+
+An exception-channel companion `opE : R → EPred → EPred` composes from the structure of `EPred`:
+the frame operator itself where the channel carries the assertion type, `FrameOp.pointwise` under a
+function layer, `FrameOp.prod` on a product layer, and `FrameOp.ignore` where the frame cannot act.
+The combinators stay applied in terms, with `apply`/projection and `upperAdjoint` equations
+characterizing them.
+-/
+
```
Comment (sgraf812) [inline src/Std/Internal/Order/FrameClosure.lean]: remove

File: src/Std/Internal/Order/FrameClosure.lean [hunk 14]
```diff
@@ -20,48 +20,195 @@ set_option linter.missingDocs true
...
+section
+
+variable {Pred : Type u} [CompleteLattice Pred] {EPred : Type v} [CompleteLattice EPred]
+  {β : Type w} {R : Type x} {opE : R → EPred → EPred}
+
+/-- `t` frames the resource `F` with respect to the operator `op : R → Pred → Pred` and its
+exception-channel companion: `op F ·` commutes into the value postcondition of `t` while
+`opE F ·` commutes into the exception postcondition. -/
+def PredTrans.Frames (op : R → Pred → Pred) [FrameOp op EPred opE]
```
Comment (sgraf812) [inline src/Std/Internal/Order/FrameClosure.lean]: This used to be a structure! WP.Frames. Make it so again!

Comment (sgraf812) [reply src/Std/Internal/Order/FrameClosure.lean]: also note that the docstring used to be better

File: tests/elab/wpFrameExit.lean [hunk 15]
```diff
@@ -0,0 +1,138 @@
...
+/-!
+The frame closure frames both channels: `frameClosure op opE` hands the framed exception
+postcondition `opE r E` to the base transformer. On a two-constructor program type over a toy heap
+this file shows:
+
+1. `exit_spec_fails`: with the identity `opE`, the specification `⦃ l ↦ v ⦄ exit ⦃ ⊥; l ↦ v ⦄`,
+   which says an exit owns exactly what it held, is unprovable. The characterization
+   `WP.of_frameClosure_le_wp_iff` reduces it to `∀ F, F ∗ (l ↦ v) ⊑ (l ↦ v)`, and a two-cell heap
+   refutes that: the identity `opE` only supports frame-absorbing exit assertions.
+
```
Comment (sgraf812) [inline tests/elab/wpFrameExit.lean]: Not convinced whether we need to show this. The test is simply a regression test for 2.

File: tests/elab/wpFrameExit.lean [hunk 16]
```diff
@@ -0,0 +1,138 @@
...
+    intro Q Q' E E' hE hQ
+    cases x
+    · exact hQ ()
+    · exact hE
+
+/-! ## 1. The identity `opE` cannot carry exact ownership across an exit -/
+
+/-- The identity-`opE` interpretation: only the value channel is framed. -/
+@[instance_reducible] noncomputable def framedWP : WP Prog Unit HProp HProp :=
+  WP.of_frameClosure sepConj (opE := FrameOp.ignore) baseWP
```
Comment (sgraf812) [inline tests/elab/wpFrameExit.lean]: This `(opE := FrameOp.ignore)` is a really strange thing to do; just don't do it is what I propose. Only test the thing that we want to enable: pushing the frame into the exception post

File: src/Lean/Elab/Tactic/VCGen/LatticeOp.lean [hunk 17]
```diff
@@ -64,33 +65,48 @@ public def LatticeOp.ofProp : LatticeOp :=
 /-- The lattice top `⊤`: distributes via `top_apply`, closes with `le_top`. -/
 public def LatticeOp.top : LatticeOp :=
   { head := ``Lean.Order.top, rewrites := #[``Lean.Order.top_apply], terminal? := ``le_top }
-/-- The magic-wand residual `upperAdjoint f b`: point-framed, closes with `le_upperAdjoint`. -/
+/-- The magic-wand residual `upperAdjoint f b`: point-framed, closes with `le_upperAdjoint`. The
+rewrites decompose a wand whose map is an `FrameOp` layer of a derived exception companion, or a
+`meet`; they fire in rules that hold the wand concrete, such as the tuple projections. -/
```
Comment (sgraf812) [inline src/Lean/Elab/Tactic/VCGen/LatticeOp.lean]: Undo the docstring change

File: src/Lean/Elab/Tactic/VCGen/LatticeOp.lean [hunk 18]
```diff
@@ -64,33 +65,48 @@ public def LatticeOp.ofProp : LatticeOp :=
...
 /-- Indexed infimum `iInf`/`⨅`: distributes via `iInf_apply`, closes with `le_iInf`. -/
 public def LatticeOp.iInf : LatticeOp :=
   { head := ``Lean.Order.iInf, numConst := 3,
     rewrites := #[``Lean.Order.iInf_apply], terminal? := ``Lean.Order.le_iInf }
 /-- Whether a projection application `@Prod.fst/snd eh et epost x₁ … xₙ` projects a `⊥`/`⊤` tuple,
-the only operand shape the `fst`/`snd` rewrites reduce. -/
-private def projectsBotOrTop (rhs : Expr) : Bool :=
+a componentwise companion application `FrameOp.prod opA opB r E`, or a componentwise wand
+`upperAdjoint (FrameOp.prod opA opB r) E`, the operand shapes the `fst`/`snd` rewrites reduce. -/
+private def projectsReducibleTuple (rhs : Expr) : Bool :=
```
Comment (sgraf812) [inline src/Lean/Elab/Tactic/VCGen/LatticeOp.lean]: This is not about tuples anymore. Frame it about what upperAdjoints we can reduce/rewrite/whatever

File: src/Lean/Elab/Tactic/VCGen/LatticeOp.lean [hunk 19]
```diff
@@ -64,33 +65,48 @@ public def LatticeOp.ofProp : LatticeOp :=
...
+
+/-- The projection `(⊥/⊤ : _ × _).fst` of an exception-postcondition tuple reduces to the bare
+`⊥`/`⊤` via `Prod.fst_bot`/`Prod.fst_top` and the pointwise `bot_apply`/`top_apply`; the projection
+of a componentwise companion application reduces to the component via `FrameOp.prod_fst`; the
+projection of a componentwise wand `upperAdjoint (FrameOp.prod opA opB r) E` reduces to the
+component's wand via `FrameOp.upperAdjoint_prod_fst`, whose layers the `upperAdjoint` rewrites
+decompose down to `⇨`. `numConst := 3` holds the tuple operand concrete, since which rewrite fires
+depends on it; only the excess state arguments go schematic. No terminal: a residual with no
+terminal of its own becomes the subgoal. `applies?` declines every other operand, whose projection
+the rewrites cannot reduce. -/
```
Comment (sgraf812) [inline src/Lean/Elab/Tactic/VCGen/LatticeOp.lean]: Far too long! WTFFFF

please just remove the docstring altogether

**Comment by sgraf812** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/fab81e64467d7fec3ddc7bfe79e5e6ca8edb4c67?reference=de6d209315a66e527041a89d85381e029dbd8f74) for fab81e64467d7fec3ddc7bfe79e5e6ca8edb4c67 against de6d209315a66e527041a89d85381e029dbd8f74 are in. No significant results found. @sgraf812

- 🟥 `build//instructions`: **+1.1G** (**+0.01%**)

**Small changes (1✅, 6🟥)**

- 🟥 `build/module/Lean.Elab.Tactic.VCGen.LatticeOp//instructions`: **+129.2M** (**+4.83%**) (reduced significance based on *//lines)
- 🟥 `build/module/Std.Internal.Order.FrameClosure//instructions`: **+420.0M** (**+54.11%**) (reduced significance based on *//lines)
- 🟥 `build/module/Std.Internal.Order.PreservesSup//instructions`: **+533.7M** (**+30.12%**) (reduced significance based on *//lines)
- ✅ `build/module/Std.WP.Conjunctive//instructions`: **-18.3M** (**-3.17%**) (reduced significance based on *//lines)
- 🟥 `build/module/Std.WP.Frame//instructions`: **+18.7M** (**+2.06%**)
- 🟥 `build/module/Std.WP.Monad.Conjunctive//instructions`: **+21.3M** (**+1.77%**)
- 🟥 `build/module/Std.WP.Monad.Frame//instructions`: **+21.4M** (**+3.17%**) (reduced significance based on *//lines)
